US07737149B2
N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-methoxy-benzamide
4-Methoxybenzoyl chloride (54 mg, 0.315 mmol, 1.1 eq) in THF (2 ml) was added dropwise to a solution of tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate (100 mg, 0.286 mmol, 1 eq) in THF (3 ml) under nitrogen and the solution was heated at reflux for a total of 14 h, then stirred at room temperature for 16 h. The solvent was evaporated and the residue was purified by prep. HPLC, using a gradient of 55-75% MeCN in H2O (containing 1% ammonium hydroxide). The product fractions were evaporated to dryness and taken up in DCM (4 ml). 4M HCl in dioxane (1 ml) was added and the mixture stirred at room temperature for 1 h, then evaporated to dryness. The residue was partitioned between ethyl acetate (6 ml) and aqueous NaHCO3 (6 ml), the layers were separated and the aqueous layer was re-extracted with ethyl acetate (3×6 ml). The combined organic extracts were dried over Na2SO4, filtered and evaporated to afford the title compound as an off-white solid (22 mg, 20% yield); 1H NMR (400.132 MHz, DMSO) δ 3.74 (s, 6H), 3.82 (s, 3H), 5.06 (s, 2H), 5.59 (s, 1H), 6.43 (t, 1H), 6.59 (d, 2H), 7.00 (d, 2H), 7.96 (d, 2H) MS: m/z 384 (MH+)

reactant | 4-Methoxybenzoyl chloride | 0.315 mmol, 54 mg, 1.1 eq | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate | 0.286 mmol, 100 mg, 1 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)OCC1=CC(=CC(=C1)OC)OC | C17H23N3O5
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-methoxy-benzamide | 22 mg, 20% yield | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(C1=CC=C(C=C1)OC)=O | C20H21N3O5
